US06048880
3-(Bromomethyl)-2,5-dichlorothiophene (step 2)
To a stirred solution of 2,5-dichloro-3-methylthiophene (25.8 g, 154 mmol) in carbon tetrachloride (47 mL) was added N-bromosuccinimide (27.5 g, 154 mmol) and benzoyl peroxide (310 mg, 1.28 mmol). The mixture was heated at reflux temperature for 8 hours. After cooling, the insolubles were filtered off. The filtrate was washed with aqueous sodium sulfite solution, dried over MgSO4, and concentrated in vacuo. The residue was fractionally distilled under reduced pressure (bp 80° C., 0.5 mmHg) to give the subtitle compound (34.5 g, 91% yield).

reactant | 2,5-dichloro-3-methylthiophene | 154 mmol, 25.8 g | ClC=1SC(=CC1C)Cl | C5H4Cl2S
reactant | N-bromosuccinimide | 154 mmol, 27.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 47 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 1.28 mmol, 310 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(Bromomethyl)-2,5-dichlorothiophene | 34.5 g, 91% yield | BrCC1=C(SC(=C1)Cl)Cl | C5H3BrCl2S
